US07094789B2
(Step A) Synthesis of trans-4-(N-tert-butoxycarbonylamino)cyclohexanol (Intermediate 35)
A solution of trans-4-aminocyclohexanol (50 g, Tokyo Kasei Kogyo) and 2 N aqueous sodium hydroxide (200 ml) in 2-propanol (200 ml) was added with di-t-butyl dicarbonate (94.8 g, Wako Pure Chemical Industries) with stirring and ice cooling and stirred at room temperature for 4.5 hours. The reaction mixture was cooled again on ice and stirred for 1 hour. Then, the deposited crystals were collected by filtration, washed with water and then dried at 40° C. under reduced pressure to obtain the title compound (90.3 g).

reactant | trans-4-aminocyclohexanol | 50 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | sodium hydroxide | 2 N, 200 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 94.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | trans-4-(N-tert-butoxycarbonylamino)cyclohexanol | 90.3 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
